US07888374B2
4,6-Diamino-2-phenyl-nicotinonitrile
A 5 mL sealable heavy walled glass tube suitable for microwave heating was charged with 213 mg (1.00 mmol) of 4,6-diamino-2-bromo-nicotinonitrile, 183 mg (1.5 mmol) of phenylboronic acid, 11 mg (0.050 mmol) of palladium(II)acetate, 60 mg (0.020 mmol) of tri(o-tolyl)phosphine, and 220 mg (2.05 mmol) of sodium carbonate. To this mixture was added 2 mL of DMF, 2 mL of THF, and 1 mL of water. The tube was sealed, then heated with a microwave apparatus at 130° C. for 20 min. The mixture was poured into 20 mL of water, extracted with ethyl acetate (3×10 mL). The combined ethyl acetate layers were back extracted with 1M NaOH(aq.) (2×10 mL) and brine (1×10 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The product was partially purified via silica gel chromatography, eluting with 60:40 ethyl acetate:hexanes to provide an off-white solid. This was taken up in ethyl acetate, then hexane was added (until about 50:50 hexanes:ethyl acetate) to precipitate 63 mg (30%) of white crystals. 1H NMR (300 MHz, d6-DMSO) δ 7.66 (m, 2H), 7.45 (m, 3H), 6.35 (s, 2H), 6.25 (s, 2H), 5.69 (s, 1H); MS (ESI) m/e 211 (M+H)+, 209 (M−H)−.

reactant | 4,6-diamino-2-bromo-nicotinonitrile | 1.00 mmol, 213 mg | NC1=CC(=NC(=C1C#N)Br)N | C6H5BrN4
reactant | phenylboronic acid | 1.5 mmol, 183 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tri(o-tolyl)phosphine | 0.020 mmol, 60 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium carbonate | 2.05 mmol, 220 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 0.050 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | hexane | CCCCCC | C6H14
solvent | water | 20 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4,6-Diamino-2-phenyl-nicotinonitrile | NC1=CC(=NC(=C1C#N)C1=CC=CC=C1)N | C12H10N4
